US07384963B2
N-(4-Methoxybenzyl)-N-methyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodomethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H. d), 7.75,(1H, s), 7.55-7.47,(5H, m), 7.30,(1H, m), 7.13,(1H, m), 6.94,(2H, d), 4.62-4.46,(2H, m), 3.74,(3H, s), 2.85,(3H, b), 2.55,(3H, s), 2.31,(3H, s). LCMS; retention time 3.46 min, MH+ 428.

reactant | N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C25H23N3O3
reactant | iodomethane | IC | CH3I
product | N-(4-Methoxybenzyl)-N-methyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC1=CC=C(CN(C(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C)C=C1 | C26H25N3O3
